US07829584B2
2-[1,2,4]triazol-1-yl-nicotinonitrile
A mixture of 2-chloro-nicotinonitrile (10.30 g, 74.4 mmol), 1H-[1,2,4]Triazole (5.36 g, 77.6 mmol), and Cs2CO3 (25.28 g, 77.6 mmol) in DMSO (30 mL) was stirred at 50° C. for C for 30 min. The resulting off-white semisolid was partitioned with water (600 mL) and DCM (600 mL), and the aq layer was extracted with DCM (2×200 mL). The combined organic layers were dried (Na2SO4), concentrated, and put under vacuum at 90° C. to remove the bulk of DMSO. The resulting white solid was briefly triturated with refluxing diethyl ether (100 mL), allowed to cool to rt, and filtered. The filter cake was washed with ether (3×50 mL) and dried to yield the title compound as white fluffy needles (11.37 g, 89%).

reactant | 2-chloro-nicotinonitrile | 74.4 mmol, 10.30 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 1H-[1,2,4]Triazole | 77.6 mmol, 5.36 g | N1N=CN=C1 | C2H3N3
reactant | Cs2CO3 | 77.6 mmol, 25.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 2-[1,2,4]triazol-1-yl-nicotinonitrile | 11.37 g, 89% | N1(N=CN=C1)C1=C(C#N)C=CC=N1 | C8H5N5
